US03933802
13.5 g of 5-(dimethylsulphamoyl)-isatoic acid anhydride and 70 ml of absolute dioxane are gently warmed. As soon as the reaction mixture has reached 40°C, a solution of 8.3 g of N-methoxycarbonylpiperazine is added dropwise and the mixture is then heated further, an evolution of carbon dioxide setting in at about 70°C. The mixture is heated under reflux for a further hour and allowed to cool somewhat, insoluble matter is filtered off and the filtrate is concentrated under reduced pressure. The colourless crystals which are precipitated are filtered off with suction and recrystallised from 350 ml of methanol. 13.1 g of 1-[5-dimethylsulphamoyl)-anthraniloyl]-4-ethoxycarbonyl-piperazine, melting point 202°-204°C, are thus obtained.

reactant | 5-(dimethylsulphamoyl)-isatoic acid anhydride | 13.5 g | CN(S(=O)(=O)C1=CC=C2C(C(=O)OC(N2)=O)=C1)C | C10H10N2O5S
reactant | N-methoxycarbonylpiperazine | 8.3 g | COC(=O)N1CCNCC1 | C6H12N2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 4-ethoxycarbonyl-piperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
